US08383624B2
Trans 4-(6-chloro-4-iodopyridin-2-ylamino)cyclohexanol
A suspension of 2,6-dichloro-4-iodopyridine (6 g, 21.9 mmol) and trans 4-aminocyclohexanol (5.05 g, 43.8 mmol) in 15 mL of a 1:4 mixture of N,N-dimethylformamide/1,4-dioxane was heated in a Biotage Initiator microwave at 200° C. for 55 min. Ethyl acetate (150 mL) was added and the mixture washed with water (100 mL) and brine (50 mL). The organics were concentrated and the residue purified by flash chromatography on silica gel eluting with 60% ethyl acetate in hexanes to provide the title compound. Yield: 3.8 g (49%). MS (DCI/NH3) m/z 353 (M+H)+.

reactant | 2,6-dichloro-4-iodopyridine | 21.9 mmol, 6 g | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | trans 4-aminocyclohexanol | 43.8 mmol, 5.05 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | N,N-dimethylformamide 1,4-dioxane | CN(C=O)C.O1CCOCC1
solvent | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | Trans 4-(6-chloro-4-iodopyridin-2-ylamino)cyclohexanol | ClC1=CC(=CC(=N1)N[C@@H]1CC[C@H](CC1)O)I | C11H14ClIN2O
